US05534646
2,4-Di(dioctadecylamino)-1,3-di-tert-butyl-1,3,2,4-diazadiphosphetidine
The procedure of Example 1 is repeated using 5 g (18 mmol) of 2,4-dichloro-1,3-di-tert-butyl-1,3,2,4-diazadiphosphetidine, 18.8 g (36 mmol) of dioctadecylamine, 5 mL (36 mmol) of triethylamine and 200 mL of toluene to give 20 g of a wet solid. Recrystallization of the crude solid with a mixture of 45 mL of acetonitrile and 5 mL of toluene gives 10 g (50% yield) of the title compounds as a white solid melting at 48°-55° C.

reactant | 2,4-dichloro-1,3-di-tert-butyl-1,3,2,4-diazadiphosphetidine | 18 mmol, 5 g | ClP1N(P(N1C(C)(C)C)Cl)C(C)(C)C | C8H18Cl2N2P2
reactant | dioctadecylamine | 36 mmol, 18.8 g | C(CCCCCCCCCCCCCCCCC)NCCCCCCCCCCCCCCCCCC | C36H75N
reactant | triethylamine | 36 mmol, 5 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 2,4-Di(dioctadecylamino)-1,3-di-tert-butyl-1,3,2,4-diazadiphosphetidine | 20 g | C(CCCCCCCCCCCCCCCCC)N(P1N(P(N1C(C)(C)C)N(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC)C(C)(C)C)CCCCCCCCCCCCCCCCCC | C80H166N4P2
